US04101660
To a solution of 2.3 g of 2-chloromethyl-5-(4-chlorophenyl) oxazole in 50 ml of ethanol was added 3.2 g of 70% ethylamine aqueous solution, and the resultant solution was allowed to stand at room temperature overnight. At the end of this time, the solvent and the excess ethylamine were distilled off under reduced pressure, and then 30 ml of water, 10 ml of 2N NaOH solution and 50 ml of chloroform were added. The chloroform layer was separated and the aqueous layer was extracted twice with 30 ml of chloroform. The combined chloroform layer was dried over anhydrous sodium sulfate, and the solvent was removed in vacuo to give 2.1 g of crude 2-ethylaminomethyl-5-(4-chlorophenyl) oxazole. This was dissolved in 15 ml of ethanol, and 5 ml of ethanolic saturated hydrogen chloride solution was added. Evaporation of the solvent followed by recrystallization from ethanol afforded 2.0 g (73 percent) of 2-ethylaminomethyl-5-(4-chlorophenyl) oxazole hydrochloride, M. P. 194°-6° C.

reactant | 2-chloromethyl-5-(4-chlorophenyl) oxazole | 2.3 g | ClCC=1OC(=CN1)C1=CC=C(C=C1)Cl | C10H7Cl2NO
reactant | ethylamine | 3.2 g | C(C)N | C2H7N
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 2-ethylaminomethyl-5-(4-chlorophenyl) oxazole | 2.1 g | C(C)NCC=1OC(=CN1)C1=CC=C(C=C1)Cl | C12H13ClN2O
